US06191280B1
3-Fluoro-2-phenylsulfinyl-5-trifluoromethylpyridine
20 g (0.0693 mol) of 95% pure 3-fluoro-2-phenylthio-5-trifluoromethylpyridine were introduced into 100 ml of glacial acetic acid and 20 ml of trifluoroacetic acid and over a period of 5 min, with stirring at 22° C., 5.64 g (0.083 mol) of 50% strength hydrogen peroxide were added. The reaction mixture was stirred at 22° C. for 10 h and then poured into 1 l of ice-water and extracted with methylene chloride. The organic phase was washed with saturated sodium bicarbonate solution and water. After drying, filtration through silica gel and concentration under reduced pressure, 19.1 g (95.4% of theory) of the title compound of 24 n D

reactant | 3-fluoro-2-phenylthio-5-trifluoromethylpyridine | 0.0693 mol, 20 g | FC=1C(=NC=C(C1)C(F)(F)F)SC1=CC=CC=C1 | C12H7F4NS
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-Fluoro-2-phenylsulfinyl-5-trifluoromethylpyridine | FC=1C(=NC=C(C1)C(F)(F)F)S(=O)C1=CC=CC=C1 | C12H7F4NOS
